US09029409B2
To a cold suspension of methyl triphenyl phosphonium iodide (2.88 g, 7.13 mmol) in THF (20 mL) was added KOBt (0.88 g, 7.84 mmol) slowly. The reaction mixture was warmed to RT and stirred for about 1 h. A solution of 4-(2-(tert-butyldimethylsilyloxy)ethoxy)benzaldehyde (1.0 g, 3.56 mmol) in THF (15 mL) was added slowly to the above reaction mixture and stirred for about another 3 h. The reaction was quenched with water and extracted with diethyl ether (3×75 mL). The combined organic extracts were washed with brine (1×75 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue obtained was purified by silica gel chromatography using 10% EtOAc-hexane as the eluent. Relevant fractions containing the target compound were combined and evaporated to dryness under reduced pressure to afford tert-buyldimethyl (2-(4-vinylphenoxy)ethoxy)silane 0.65 g, (65%), 1H NMR (400 MHz, CDCl3): δ 7.350-7.342 (d, J=3.2 Hz, 2H), 6.882-6.875 (d, J=2.8 Hz, 2H), 6.857-6.692 (m, 1H), 5.625-5.581 (d, J=17.6 Hz, 1H), 5.132-5.104 (d, J=11.2 Hz, 1H), 4.052-3.954 (m, 4H), 0.909 (s, 9H), 0.1 (s, 6H), MS m/z: 279.3 (M+H)+.

reactant | methyl triphenyl phosphonium iodide | 7.13 mmol, 2.88 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-(2-(tert-butyldimethylsilyloxy)ethoxy)benzaldehyde | 3.56 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(C=O)C=C1 | C15H24O3Si
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-buyldimethyl (2-(4-vinylphenoxy)ethoxy)silane | 0.65 g, 65% | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)C=C)(C)C | C16H26O2Si
